US06180113B2
a) N-Benzylperfluorooctanesulfonamide
50.21 g (100.0 mmol) of perfluorooctanesulfonyl fluoride is added in drops to a mixture of 10.62 g (105.0 mmol) of triethylamine and 10.72 g (100.0 mmol) of benzylamine at 80° C. while being stirred vigorously. It is stirred for 2 days at 80° C., the reaction mixture is mixed with 300 ml of water and extracted 3 times with ethyl acetate. The combined organic extracts are dried on sodium sulfate, filtered and concentrated by evaporation. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/methanol=4/1).

reactant | perfluorooctanesulfonyl fluoride | 100.0 mmol, 50.21 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
reactant | triethylamine | 105.0 mmol, 10.62 g | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 100.0 mmol, 10.72 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 300 ml | O | H2O
product | N-Benzylperfluorooctanesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C15H8F17NO2S
